US09023849B2
1-(2-Fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidohydrazide
610 mg (approx. 1.92 mmol, purity 86%) of 1-(2-fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide were initially charged in 10 ml of ethanol and cooled to 0° C. 777 mg (7.68 mmol) of triethylamine and 120 mg (1.920 mmol) of 80% hydrazine hydrate were added, and the mixture was stirred at room temperature for 18 h. The mixture was concentrated on a rotary evaporator, taken up in ethyl acetate and washed three times with saturated aqueous sodium chloride solution. The organic phase was dried over sodium sulphate, concentrated on a rotary evaporator and dried under high vacuum. 590 mg (purity 89%, 95% of theory) of the target compound were obtained.

reactant | 1-(2-fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide | approx. 1.92 mmol, 610 mg | FC1=C(CN2N=C(C=3C2=NC=NC3)C(N)=N)C=CC=C1 | C13H11FN6
reactant | triethylamine | 7.68 mmol, 777 mg | C(C)N(CC)CC | C6H15N
reactant | hydrazine hydrate | 1.920 mmol, 120 mg | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(2-Fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidohydrazide | FC1=C(CN2N=C(C=3C2=NC=NC3)C(NN)=N)C=CC=C1 | C13H12FN7
